US07906654B2
Synthesis of 1-(2-hydroxyethyl)-1H-benzimidazole-7-carbonitrile
3-amino-2-[(2-hydroxyethyl)amino]benzonitrile (38 g, crude), is dissolved in formic acid (150 ml) and stirred under reflux for 1 hour. The reaction mixture is concentrated to dryness under reduced pressure to give a dark solid. This solid is dissolved in 200 ml of methanol with heating and while still hot, 60 ml of triethylamine is added and reflux for 1 hour. The mixture is concentrated under vacuum and the precipitate is filtered and washed with water then dried to give the desired compound (27 g, 70% from intermediate 11).

reactant | 3-amino-2-[(2-hydroxyethyl)amino]benzonitrile | 38 g | NC=1C(=C(C#N)C=CC1)NCCO | C9H11N3O
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
solvent | formic acid | 150 ml | C(=O)O | CH2O2
solvent | methanol | 200 ml | CO | CH4O
product | 1-(2-hydroxyethyl)-1H-benzimidazole-7-carbonitrile | 27 g, 70% | OCCN1C=NC2=C1C(=CC=C2)C#N | C10H9N3O
